US06660753B2
To a flame dried, argon purged screw-cap vial, containing copper (I) triflate.benzene complex (0.01 g, 0.03 mmol), 1,10-phenanthroline (0.10 g, 0.54 mmol), trans-dibenzylideneacetone (0.01 g, 0.03 mmol) and cesium carbonate (0.20g, 0.60 mmol) was added a solution of 4-(2-pyridyl)imidazole (0.08 g, 0.54 mmol) and 3-iodobenzonitrile (0.19 g, 0.82 mmol) in ortho-xylene (2 mL). The resulting brownish black reaction mixture was heated overnight at 120° C. After cooling, the reaction mixture was diluted with dichloromethane (20 mL) and washed sequentially with saturated ammonium chloride (20 mL) and brine (20 mL). The organic phase was then dried with sodium sulfate, filtered, and concentrated in vacuo. Silica gel chromatography of the crude residue using 1% methanol (2 M in ammonia) in dichloromethane afforded 11 mg of 4-(2-pyridyl)-1-(3-cyanophenyl)-1H-imidazole, as an off-white solid.

reactant | 1,10-phenanthroline | 0.54 mmol, 0.10 g | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | trans-dibenzylideneacetone | 0.03 mmol, 0.01 g | C(C1=CC=CC=C1)=CC(=O)/C=C/C1=CC=CC=C1 | C17H14O
reactant | cesium carbonate | 0.60 mmol, 0.20g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(2-pyridyl)imidazole | 0.54 mmol, 0.08 g | N1=C(C=CC=C1)C=1N=CNC1 | C8H7N3
reactant | 3-iodobenzonitrile | 0.82 mmol, 0.19 g | IC=1C=C(C#N)C=CC1 | C7H4IN
solvent | ortho-xylene | 2 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(2-pyridyl)-1-(3-cyanophenyl)-1H-imidazole | 11 mg | N1=C(C=CC=C1)C=1N=CN(C1)C1=CC(=CC=C1)C#N | C15H10N4
